US09260455B2
Step 1. Synthesis of N-[(4R,4aR,6R,8aS)-6-(bromomethyl)-8a-(2,4-difluorophenyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C26)
A solution of N-[(4R,4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(hydroxymethyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (P2) (150 mg, 0.347 mmol) in dichloromethane (7.5 mL) was cooled to 0° C. Triphenylphosphine (182 mg, 0.694 mmol) was added, followed by carbon tetrabromide (70 μL, 0.69 mmol), and the reaction mixture was removed from the ice bath and stirred for 18 hours. After addition of saturated aqueous sodium chloride solution (15 mL), the mixture was extracted with dichloromethane (2×20 mL); the combined organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo. Silica gel chromatography (Gradient: 0% to 70% ethyl acetate in heptane) provided the product as a white solid. Yield: 77.9 mg, 157 μmol, 45%. 1H NMR (400 MHz, CDCl3) δ 8.15-8.27 (br m, 2H), 7.34-7.57 (m, 4H), 6.84-6.98 (m, 2H), 4.19 (br d, J=12 Hz, 1H), 3.82-3.92 (m, 2H), 3.45-3.52 (m, 1H), 3.39 (dd, J=10.5, 5.8 Hz, 1H), 3.23-3.33 (br m, 1H), 2.89-2.98 (m, 1H), 1.93-2.02 (m, 1H), 1.6-1.73 (m, 1H), 1.28 (d, J=7 Hz, 3H).

reactant | N-[(4R,4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(hydroxymethyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | 0.347 mmol, 150 mg | FC1=C(C=CC(=C1)F)[C@@]12N=C(S[C@@H]([C@@H]1C[C@@H](OC2)CO)C)NC(C2=CC=CC=C2)=O | C22H22F2N2O3S
reactant | Triphenylphosphine | 0.694 mmol, 182 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 0.69 mmol, 70 μL | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 7.5 mL | ClCCl | CH2Cl2
product | N-[(4R,4aR,6R,8aS)-6-(bromomethyl)-8a-(2,4-difluorophenyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | BrC[C@H]1C[C@@H]2[C@@](N=C(S[C@@H]2C)NC(C2=CC=CC=C2)=O)(CO1)C1=C(C=C(C=C1)F)F | C22H21BrF2N2O2S
